US05639752
X. 5-(6-isopropoxy-3-nitropyrid-2-ylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and 2,6-dichloro-3-nitropyridine were used. No base was used, and 2-propanol was used as solvent. This reaction mixture was stirred at room temperature was 1 hour. Then a solution of sodium hydride (5 eq) in 2-propanol was added dropwise to the above reaction mixture with cooling at 0° C. The resulting reaction mixture was stirred at room temperature under nitrogen for 2.5 hours. The reaction mixture was then evaporated under reduced pressure. Column chromatography of the residue afforded the title compound (42%) as an orange amorphous solid: 1H NMR (CDCl3) δ10.6 (br s, NH), 8.57 (br s, NH), 8.37 (d, J=9.2 Hz, 1H), 7.71 (s, 1H), 7.34-7.28 (m, 2H), 7.05 (d, J=2.0 Hz, 1H), 6.08 (d, J=9.2 Hz, 1H), 5.14 (sept, J=6.2 Hz, 1H), 3.18-3.10 (m, 2H), 2.61 (dd, J=14.0 and 9.4 Hz, 1H), 2.54-2.45 (m, 1H), 2.44 (s, 3H), 2.23 (dd, J=17.2 and 9.3 Hz, 1H), 1.90-1.53 (m, 4H), 1.25 (d, J=6.1 Hz, 3H), 1.24 (d, J=6.2 Hz, 3H); 13C NMR (CDCl3) δ166.3, 151.8, 138.1, 134.1, 129.5, 127.9, 123.1, 121.7, 119.2, 114.2, 113.9, 111.0, 102.8, 70.4, 66.4, 57.5, 40.8, 31.5, 29.9, 21.9, 14.0, 11.0; FAB HRMS calculated for [C22H27N5O3.H]410.2194, found 409.2187.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 2,6-dichloro-3-nitropyridine | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | sodium hydride | 5 eq | [H-].[Na+]
reactant | 2-propanol | CC(C)O | C3H8O
product | 5-(6-isopropoxy-3-nitropyrid-2-ylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 42% | C(C)(C)OC1=CC=C(C(=N1)NC=1C=C2C(=CNC2=CC1)CC1N(CCC1)C)[N+](=O)[O-] | C22H27N5O3
